US04431822
4-Bromo-2-fluoro-5-isopropoxyaniline (2.0 g) and 3,4,5,6-tetrahydrophthalic anhydride (1.23 g) were dissolved in acetic acid (10 ml) and refluxed for 3 hours. The resultant mixture was allowed to cool to room temperature and poured into water, followed by extraction with ether. The ether extract was washed with water, dried over anhydrous sodium sulfate and subjected to filtration. The filtrate was concentrated under reduded pressure, and the residue was purified by silica gel chromatography to obtain 1.6 g of N-(4-bromo-2-fluoro-5-isopropoxyphenyl)-3,4,5,6-tetrahydrophthalimide (Compound No. 2). M.P., 116.5°-117.5° C.

reactant | 4-Bromo-2-fluoro-5-isopropoxyaniline | 2.0 g | BrC1=CC(=C(N)C=C1OC(C)C)F | C9H11BrFNO
reactant | 3,4,5,6-tetrahydrophthalic anhydride | 1.23 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
reactant | water | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | N-(4-bromo-2-fluoro-5-isopropoxyphenyl)-3,4,5,6-tetrahydrophthalimide | 1.6 g | BrC1=CC(=C(C=C1OC(C)C)N1C(C2=C(C1=O)CCCC2)=O)F | C17H17BrFNO3
